US07728009B1
Step 2. Preparation of 5-bromo-4-methyl-thiazole-2-carboxylic acid ethyl ester
To a solution of 4-methyl-thiazole-2-carboxylic acid ethyl ester (171 mg, 1.0 mmol) in acetonitrile (5 ml) is added NBS (180 mg, 1.0 mmol). The reaction mixture is stirred at rt for 2 hr followed by the addition of a second portion of NBS (180 mg, 1.0 mmol). After stirring at rt for 3 hr, the solvent is removed. The resulting residue is purified by PTLC to give the title compound.

reactant | 4-methyl-thiazole-2-carboxylic acid ethyl ester | 1.0 mmol, 171 mg | C(C)OC(=O)C=1SC=C(N1)C | C7H9NO2S
reactant | NBS | 1.0 mmol, 180 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | NBS | 1.0 mmol, 180 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 5-bromo-4-methyl-thiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(N1)C)Br | C7H8BrNO2S
